US07615562B2
Step A: 2,2,6-Trimethyl-piperidin-4-ylamine
A solution of 2,2,6-trimethyl-piperidin-4-one (790 mg, 5.6 mmol) in 23 ml of MeOH was treated with ammonium acetate (4.6 g, 56.0 mmol) and sodium cyanoborohydride (0.27 g, 3.9 mmol). This mixture was stirred at room temperature for 24 hours. Afterwards 5 ml 1N-HCl were added and stirring continued for 20 minutes. For extraction with EtOAc the solution was basified with 40% NaOH. The crude was purified by chromatography on silicagel (DCM/MeOH/ammonia:6/4/0.4). Yield: 0.39 g (49%).

reactant | 2,2,6-trimethyl-piperidin-4-one | 5.6 mmol, 790 mg | CC1(NC(CC(C1)=O)C)C | C8H15NO
reactant | ammonium acetate | 56.0 mmol, 4.6 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 3.9 mmol, 0.27 g | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 23 ml | CO | CH4O
product | 2,2,6-Trimethyl-piperidin-4-ylamine | CC1(NC(CC(C1)N)C)C | C8H18N2
